US04302461
b. 2,3-bis(4-Methoxyphenyl)-5-(methylthio)thiophene
A suspension of 2,3-bis(4-methoxyphenyl)-5-(2,4-dinitrophenylthio)thiophene (4.8 g, 9.7 mmoles) in 20 ml N2 -purged methanol was cooled to 0° and treated with methyl iodide (1 ml, 14.6 mmoles) and a N2 -purged solution of potassium hydroxide (1.3 g, 19.4 mmoles) in a mixture of 5 ml water and 5 ml methanol. N2 -purged tetrahydrofuran (25 ml) was added and the reaction heated at reflux for 0.5 hour. An additional portion of methyl iodide (1 ml, 14.6 mmoles) was added and heating continued for 0.5 hour. The reaction mixture was cooled, poured into ≃50 ml 1 N HCl and extracted three times with ether and three times with ethyl acetate. The combined organic extracts were washed once with water, once with brine, dried and concentrated to a dark oil. Chromatography on silica gel and recrystallization from methanol gave the title compound (1.39 g), m.p. 106°-8°. Infrared and H-NMR spectra were consistent with the assigned structure. MS 342 (M+)

reactant | 2,3-bis(4-methoxyphenyl)-5-(2,4-dinitrophenylthio)thiophene | 9.7 mmoles, 4.8 g | COC1=CC=C(C=C1)C=1SC(=CC1C1=CC=C(C=C1)OC)SC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C24H18N2O6S2
reactant | methyl iodide | 14.6 mmoles, 1 ml | CI | CH3I
reactant | potassium hydroxide | 19.4 mmoles, 1.3 g | [OH-].[K+]
reactant | methyl iodide | 14.6 mmoles, 1 ml | CI | CH3I
reactant | HCl | 1 N, 50 ml | Cl | ClH
solvent | N2 | 20 ml | N#N | N2
solvent | water | 5 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
solvent | N2 | 25 ml | N#N | N2
product | 2,3-bis(4-Methoxyphenyl)-5-(methylthio)thiophene | 1.39 g | COC1=CC=C(C=C1)C=1SC(=CC1C1=CC=C(C=C1)OC)SC | C19H18O2S2
